US05919779
A solution of 3-bromo-4-(2-fluoropyridin-3-yl)thiophene (0.344 g) and ethylamine (0.2 g) in dioxane (1 mL), in a sealed tube, was heated at 100° C. for four days. The mixture was cooled, diluted with ethyl acetate, washed with water, dried, filtered, and evaporated. The residue was fractionated by chromatography to give 3-bromo-4-(2-ethylaminopyridin-3-yl)thiophene (0.316 g) as an oil.

reactant | 3-bromo-4-(2-fluoropyridin-3-yl)thiophene | 0.344 g | BrC1=CSC=C1C=1C(=NC=CC1)F | C9H5BrFNS
reactant | ethylamine | 0.2 g | C(C)N | C2H7N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-4-(2-ethylaminopyridin-3-yl)thiophene | 0.316 g | BrC1=CSC=C1C=1C(=NC=CC1)NCC | C11H11BrN2S
